US05843943
This method was utilized to prepare the N-3 propylpurines. The starting material used was n-propyl urea condensed with ethyl cyanoacetate in the presence of sodium ethoxide to yield the 6-amino-1-propylpyrimidinedione in moderate yield. Commercially available 3-n-propylxanthine could also be used as the starting material.

reactant | n-propyl urea | C(CC)NC(=O)N | C4H10N2O
reactant | ethyl cyanoacetate | C(#N)CC(=O)OCC | C5H7NO2
reactant | sodium ethoxide | [O-]CC.[Na+]
product | 6-amino-1-propylpyrimidinedione | NC1=CC(NC(N1CCC)=O)=O | C7H11N3O2
